US08686152B2
To a solution of {2-[4-(4-aminobenzyl)-4-cyclohexylcarbamoyl-piperidin-1-yl]-2-oxo-1-thiophen-2-ylmethyl-ethyl}-carbamic acid tert-butyl ester (0.352 mmol; 0.2 g) in 1,2-dichloroethane (5 mL) was added pyridine-2-sulfonyl chloride (0.422 mmol; 0.075 g) and N,N-diisopropyl-N-ethylamine (0.703 mmol; 0.123 mL) and the resulting solution was stirred for 3 hours at room temperature. The resulting mixture was evaporated and the residue was purified via reverse phase HPLC. The desired fractions were combined and lyophilized. The residue was dissolved in tetrahydrofuran (10 mL) and a 4N HCl in 1,4-dioxane solution (15 mL), and the resulting mixture was stirred for 6 hours at room temperature and evaporated. The residue was triturated with diethyl ether and dried under vacuum to yield 4-(4-acetylaminobenzyl)-1-(2-amino-3-thiophen-2-yl-propionyl)-piperidine-4-carboxylic acid cyclohexylamide as a hydrochloride salt.

reactant | {2-[4-(4-aminobenzyl)-4-cyclohexylcarbamoyl-piperidin-1-yl]-2-oxo-1-thiophen-2-ylmethyl-ethyl}-carbamic acid tert-butyl ester | 0.352 mmol, 0.2 g | C(C)(C)(C)OC(NC(C(=O)N1CCC(CC1)(C(NC1CCCCC1)=O)CC1=CC=C(C=C1)N)CC=1SC=CC1)=O | C31H44N4O4S
reactant | pyridine-2-sulfonyl chloride | 0.422 mmol, 0.075 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | N,N-diisopropyl-N-ethylamine | 0.703 mmol, 0.123 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 4-(4-acetylaminobenzyl)-1-(2-amino-3-thiophen-2-yl-propionyl)-piperidine-4-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1(CCN(CC1)C(C(CC=1SC=CC1)N)=O)CC1=CC=C(C=C1)NC(C)=O | C28H38N4O3S
